US07713982B2
a) 8-chloro-1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
To a solution of 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (3.9 g, 13.3 mmol) in DMF (35 ml) was added cesium carbonate and the mixture stirred for 10 min whereupon iodomethane (0.91 ml, 14.6 mmol) was added and the mixture stirred for 18 h. The reaction was partitioned between ethyl acetate and 2N HCl solution and the organics isolated, dried (MgSO4) and concentrated. Chromatography on silica SPE eluting with cyclohexane/ethyl acetate (5%-20%) provided the product as an oil, 2.78 g, 68%. m/z 311[MH+].

reactant | 8-chloro-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 13.3 mmol, 3.9 g | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCCCC | C13H17ClN4O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 14.6 mmol, 0.91 ml | IC | CH3I
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 8-chloro-1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | ClC1=NC=2N(C(N(C(C2N1CC=C)=O)C)=O)CCCCC | C14H19ClN4O2
